### PR TITLE
Backport s1Ms2_r_indep from the SMC branch

### PR DESCRIPTION
**Pull request by weng-chenghui**
This is the last general lemma used by the SMC formalization.
Although they are highly duplicated, the proof lines using injective functions look cannot be merged into one lemma and proved by one proof easily. I tried to use Ltac to automate that part to de-duplicate them but failed.

```
Hypothesis s1_s2_indep : P|= s1 _|_ s2.
Hypothesis s1s2_r_indep : P|= [%s1, s2] _|_ r.

Lemma pr_eqM x : `Pr[ (rv_op s1 s2) = x ] =
  \sum_(a <- fin_img s1)
    (\sum_(b <- fin_img s2 | op a b == x) `Pr[ s1 = a ] * `Pr[ s2 = b]).
Proof.
(*....*)
case: ifPn => [/eqP <-|Hneq].
  rewrite -s1_s2_indep.
  rewrite 2!setX1.
  rewrite pr_in1.
  pose f (p : TX1 * TX2) := (op p.1 p.2, p.1, p.2).
  have f_inj : injective f by move => [x1 x2] [? ?] [] _ -> ->.
  by rewrite -(pfwd1_comp _ _ f_inj).
(*....*)
Qed.

Lemma pr_eqM2 x y : `Pr[ [%(rv_op s1 s2), r] = (x, y) ] =
  \sum_(a <- fin_img s1)
    (\sum_(b <- fin_img s2 | op a b == x)
      `Pr[ s1 = a ] * `Pr[ s2 = b ] * `Pr[ r = y ]).
Proof.
(*....*)
case: ifPn => [/eqP <-|Hneq].
  rewrite -s1_s2_indep -s1s2_r_indep.
  rewrite setX1 setX1.
  rewrite pr_in1.
  pose f (p:TX1 * TX2 * TX3) := (op p.1.1 p.1.2, p.2, p.1.1, p.1.2).
  have f_inj : injective f.
     by move => [[x1 x2] ?] [[? ?] ?] [] _ -> -> -> /=.
  by rewrite -(pfwd1_comp _ _ f_inj ).
(*....*)
Qed.
```
And it appears that the length is increasing if the hypothesis contains more random variables.
But probably no one really needs a triary operator that requires a hypothesis like ` P|= [%s1, s2, s3] _|_ r.`,
Therefore, the two lemmas may still be "general" enough to be in Infotheo.

### CODE REVIEW

**Comment by weng-chenghui** [comment]
And by the simplification of the two lemmas, he also found the original `s1Ms2_r_indep` is nothing but an instance of `inde_RV_comp` because the `rv_op` is now done by `comp_RV`.

File: probability/proba.v [hunk 1]
```diff
@@ -2097,6 +2097,34 @@ Notation cinde_rv_unit := cinde_RV_unit (only parsing).
...
+Section inde_RV_in.
+Context {R : realType}.
+Variables (A : finType) (P : R.-fdist A) (TA TB : finType).
+Variables (X : {RV P -> TA}) (Y : {RV P -> TB}).
+
+Definition inde_RV_in :=
+  forall E F,
+    `Pr[ [% X, Y] \in E `* F] = `Pr[ X \in E ] * `Pr[ Y \in F ].
+
+Lemma inde_RV_inP : P |= X _|_ Y <-> inde_RV_in.
```
Comment (weng-chenghui) [inline probability/proba.v:2109]: TODO: this looks redundant if it is only used in the lemma.

File: probability/proba.v [hunk 2]
```diff
@@ -2097,6 +2097,34 @@ Notation cinde_rv_unit := cinde_RV_unit (only parsing).
 #[deprecated(since="infotheo 0.9.2", note="renamed to `inde_RV_events`")]
 Notation inde_rv_events := inde_RV_events (only parsing).
 
+Section inde_RV_in.
+Context {R : realType}.
+Variables (A : finType) (P : R.-fdist A) (TA TB : finType).
+Variables (X : {RV P -> TA}) (Y : {RV P -> TB}).
+
+Definition inde_RV_in :=
```
Comment (weng-chenghui) [inline probability/proba.v:2105]: TODO: we don't need it.

File: probability/proba.v [hunk 3]
```diff
@@ -2107,6 +2135,80 @@ Proof. by split => /cinde_RV_unit/cinde_RV_sym/cinde_RV_unit. Qed.
...
+  have f_inj : injective f by move => [x1 x2] [? ?] [] _ -> ->.
+  by rewrite -(pfwd1_comp _ _ f_inj).
+rewrite 2!setX1.
+rewrite pr_in1.
+rewrite pfwd1_eq0//.
+apply: contra Hneq.
+by rewrite fin_img_imset => /imsetP[a0 _ [] -> -> ->].
+Qed.
+
+Lemma pfwd1M2l x y : `Pr[ [%(rv_op s1 s2), r] = (x, y) ] =
```
Comment (affeldt-aist) [inline probability/proba.v:2198]: `pfwd1_RV2_op`?

**Review by affeldt-aist — APPROVED** [review]
